US06187802B1
A solution of 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile (15 g) in ether (50 ml) was added dropwise to a stirred solution of 3-methoxypropylmagnesium bromide [prepared in the usual manner from 1-bromo-3-methoxypropane (15.3 g) and magnesium (2.4 g)] in ether (55 ml), then the mixture was stirred at reflux temperature for 2.5 hours, cooled to ambient temperature, and added to a mixture of crushed ice (100 g) and concentrated hydrochloric acid (80 ml). The resulting mixture was heated at 95° C. with occasional stirring for 1.5 hours, then it was allowed to stand at ambient temperature for 48 hours. The product was extracted into ether (3×100 ml), and the combined extracts were washed with water (100 ml), saturated aqueous sodium hydrogen carbonate solution (100 ml) and water (100 ml), dried (MgSO4), and the solvent was removed in vacua. The residue was distilled to give 1-[1-(3,4-dichlorophenyl)cyclobutyl]-4-methoxybutanone as a pale yellow oil (16.4 g), b.p. 138-147° C./0.5 mbar.

reactant | 1-(3,4-dichlorophenyl)cyclobutanecarbonitrile | 15 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C#N | C11H9Cl2N
reactant | 3-methoxypropylmagnesium bromide | COCCC[Mg]Br
reactant | 1-bromo-3-methoxypropane | 15.3 g | BrCCCOC | C4H9BrO
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 55 ml | CCOCC | C4H10O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]-4-methoxybutanone | 16.4 g | ClC=1C=C(C=CC1Cl)C1(CCC1)CC(CCOC)=O | C15H18Cl2O2
